US07713994B2
4Z)-6-Bromo-4-({[4-(3,5-dimethylpiperazin-1-yl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
An amount of (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.5 g, 1.77 mmol) in 5 mL of N,N′-dimethylformamide is added [4-(3,5-dimethylpiperazin-1-yl)phenyl]amine (0.44 g, 2.13 mmol). The mixture reaction is stirred at 100° C. for 3 h. Mass spectroscopy suggested the completion of reaction. Solvent is subsequently evaporated under high-pressure vacuum to brown solid. The solid is stirred in ether, filtered and washed with a small amount of methanol, excess amount of ether and hexane, and dried in oven overnight to give 0.65 g (80.0% yield) of yellow solid:

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 1.77 mmol, 0.5 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | [4-(3,5-dimethylpiperazin-1-yl)phenyl]amine | 2.13 mmol, 0.44 g | CC1CN(CC(N1)C)C1=CC=C(C=C1)N | C12H19N3
solvent | N,N′-dimethylformamide | 5 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-4-({[4-(3,5-dimethylpiperazin-1-yl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 0.65 g, 80.0% yield | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)N1CC(NC(C1)C)C | C22H23BrN4O2
